US07816401B2
(2) Synthesis of (1S,3R,4S,5E)-4-{[tert-butyl(dimethyl)silyl]oxy}-7-[(4-methoxybenzyl)oxy]-1,3,5-trimethyl-2-oxohept-5-en-1-yl benzoate (P13)
2,6-Lutidine (38.2 ml, 328 mmol) was added to an anhydrous dichloromethane (1.00 l) solution of (1S,3R,4S,5E)-4-hydroxy-7-[(4-methoxybenzyl)oxy]-1,3,5-trimethyl-2-oxohept-5-en-1-yl benzoate (70.0 g, 164 mmol) at −78° C. under nitrogen atmosphere. Trifluoromethanesulfonic acid tert-butyldimethylsilyl ester (56.5 ml, 246 mmol) was added dropwise to the reaction solution over 10 minutes. After the reaction solution was stirred at −78° C. for one and a half hour, a saturated sodium hydrogen carbonate aqueous solution was added at −78° C. The reaction solution was warmed to room temperature, which was then extracted with dichloromethane. After the organic layer was washed with water and brine sequentially, it was dried over anhydrous magnesium sulfate. After the drying agent was filtered off, the organic layer was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (Kanto Chemical, commercial name Silica gel 60N, granular, neutral, 0.040 mm-0.100 mm; n-heptane:ethyl acetate=8:1) to obtain the title compound (89.0 g) as a colorless oil.

reactant | 2,6-Lutidine | 328 mmol, 38.2 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | (1S,3R,4S,5E)-4-hydroxy-7-[(4-methoxybenzyl)oxy]-1,3,5-trimethyl-2-oxohept-5-en-1-yl benzoate | 164 mmol, 70.0 g | C(C1=CC=CC=C1)(=O)O[C@H](C([C@@H]([C@@H](\C(=C\COCC1=CC=C(C=C1)OC)\C)O)C)=O)C | C25H30O6
reactant | Trifluoromethanesulfonic acid tert-butyldimethylsilyl ester | 246 mmol, 56.5 ml | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 1.00 l | ClCCl | CH2Cl2
product | (1S,3R,4S,5E)-4-{[tert-butyl(dimethyl)silyl]oxy}-7-[(4-methoxybenzyl)oxy]-1,3,5-trimethyl-2-oxohept-5-en-1-yl benzoate | 89.0 g | C(C1=CC=CC=C1)(=O)O[C@H](C([C@@H]([C@@H](\C(=C\COCC1=CC=C(C=C1)OC)\C)O[Si](C)(C)C(C)(C)C)C)=O)C | C31H44O6Si
